US05286728
3 g of 1-{4-[N-(2-isopropyloxyethyl)amino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine are dissolved in 40 ml of absolute tetrahydrofuran and cooled to 3° with stirring. There are added thereto 1.08 g of Hunig base and then, dropwise, within a period of 5 minutes, a solution of 0.65 g of acrylic acid chloride in 5 ml of absolute tetrahydrofuran. The mixture is stirred for 30 minutes at RT and concentrated by evaporation. The residue is taken up in water and ethyl acetate and the organic phase is washed until neutral with sodium hydrogen carbonate solution and water and concentrated by evaporation. The brown oil is chromatographed over silica gel. The mixture is treated with ethereal hydrochloric acid. Recrystallisation from acetone and ether yields 1-{4-[N-(2-isopropyloxyethyl)-N-acryloylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride having a melting point of 132°-134°.

reactant | 1-{4-[N-(2-isopropyloxyethyl)amino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine | 3 g | C(C)(C)OCCNC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C24H32ClN3O2
reactant | Hunig base | 1.08 g | CCN(C(C)C)C(C)C | C8H19N
reactant | acrylic acid chloride | 0.65 g | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-{4-[N-(2-isopropyloxyethyl)-N-acryloylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride | Cl.C(C)(C)OCCN(C(C=C)=O)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C27H34ClN3O3.ClH/c1-4-26(32)31(19-20-34-21(2)3)25-11-7-23(8-12-25)27(33)30-17-15-29(16-18-30)14-13-22-5-9-24(28)10-6-22;/h4-12,21H,1,13-20H2,2-3H3;1H
